US08183246B2
(−)-(6R)-6-{[5-(4-Ethylphenyl)-6-(2-fluorophenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid
Dissolve 420 mg (0.81 mmol) (6R)-6-{[5-(4-ethylphenyl)-6-(2-fluorophenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid tert.-butyl ester in 5.3 ml 4 N hydrogen chloride in dioxan and stir for 16 h at RT. After concentrating the reaction solution by evaporation under vacuum, purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 200 mg (53% of theor.) of the desired product is obtained.

reactant | (6R)-6-{[5-(4-ethylphenyl)-6-(2-fluorophenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid tert.-butyl ester | 0.81 mmol, 420 mg | C(C)(C)(C)OC(CCCC[C@@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=C(C=CC=C2)F)=O | C31H35FN2O4
solvent | hydrogen chloride | 4 N, 5.3 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (−)-(6R)-6-{[5-(4-Ethylphenyl)-6-(2-fluorophenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid | C(C)C1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)O[C@@H](CCCCC(=O)O)C)C2=C(C=CC=C2)F | C27H27FN2O4
